US06800654B2
1-(6-Methoxy-2-naphthyl)heptan-1-ol
To a 3-neck flask equipped with an overhead stirrer, dropping funnel and thermometer was added 6-methoxy-2-naphthaldehyde (70.760 g, 380 mmol) and Et2O (1400 mL). The stirred suspension under N2 was cooled in an ice bath followed by the slow addition of hexylmagnesium bromide (228 mL of a 2 M solution in Et2O) over 1 h. Temperature was kept below 12° C. After the addition, the reaction was stirred for 3 h at room temperature then cooled in an ice bath and slowly quenched w/saturated aq. NH4Cl (250 mL). After quenching, the ice bath was removed and the mixture was stirred for a half-hour then diluted with H2O (750 mL) to dissolve all solids. The layers were separated and the aqueous layer extracted with Et2O (3×200 mL). The combined organics were washed with water (3×200 mL), and brine (2×200 mL), dried over Na2SO4, filtered, rotovap'd and dried in vacuo to give the desired product as an off-white solid (101.1 g, 371.2 mmol, 98%) with mp 71-74° C. 15 g of crude alcohol was recrystallized from hexane to give the desired product as a white solid (11.7 g) with mp 71-73° C.; 1H NMR (DMSO-d6) δ 0.82 (t, J=6.7 Hz, 3H), 1.15-1.38 (m, 8H), 1.58-1.71 (m, 2H) 3.85 (s, 3H), 4.58-4.64 (m, 1H), 5.14 (d, J−4.3 Hz, 1H), 7.12 (dd, J=2.6, 9.0 Hz, 1H), 7.26 (d, 2.4 Hz, 1H), 7.42 (dd, J=1.5, 8.4 Hz, 1H), 7.70 (s, 1H), 7.74 (d, J=8.6 Hz, 1H), 7.77 (d, J=8.9 Hz, 1H), IR (solid) 3280, 2920, 2860, 1610, 1270, 1170, 1040, and 860 cm−1; mass spectrum [ESI], m/z 255 (MH−H2O)+; Anal. Calcd. for C18H24O2: C, 79.37; H, 8.88; N, 0.00, Found: C, 79.27; H, 8.94; N, −0.03.

reactant | 6-methoxy-2-naphthaldehyde | 380 mmol, 70.760 g | COC=1C=C2C=CC(=CC2=CC1)C=O | C12H10O2
reactant | hexylmagnesium bromide | C(CCCCC)[Mg]Br
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 1400 mL | CCOCC | C4H10O
product | 1-(6-Methoxy-2-naphthyl)heptan-1-ol | 371.2 mmol, 101.1 g, 98% | COC=1C=C2C=CC(=CC2=CC1)C(CCCCCC)O | C18H24O2
